US07723333B2
2-tert-Butyl-5-phenyl-4-[(2-phenylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.500 mmol) and (2-phenylethyl)amine (0.121 g, 1.001 mmol) in MeCN (2 ml) was heated in a the microwave reactor at 120° C. for 15 nm ins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using 15-20% EtOAc in petroleum ether 40-60° C. to give the title compound (0.124 g, 65%). 1H NMR (500 MHz CDCl3): δ 7.58-7.51 (m, 2H), 7.51-7.45 (m, 3H), 7.30-7.18 (m, 3H), 6.87 (d, 2H), 5.35 (t, 1H), 3.14 (q, 2H), 2.62 (t, 2H), 1.73 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.8, 137.6, 135.0, 131.8, 129.9, 128.9, 128.7, 127.0, 125.4, 107.5, 61.7, 45.1, 36.0, 27.8; Mass Spectrum M−H+ 384.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.500 mmol, 0.150 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | (2-phenylethyl)amine | 1.001 mmol, 0.121 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | MeCN | 2 ml | CC#N | C2H3N
product | 2-tert-Butyl-5-phenyl-4-[(2-phenylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide | 0.124 g, 65% | C(C)(C)(C)N1S(C(=C(C1=O)NCCC1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C21H24N2O3S
